US07960436B2
d. N-(6-Nitro-1-oxo-indan-5-yl)-3-cyclopentyl-propionamide
Pyridine (0.1 g, 1.3 mmol) was added to a suspension of 5-amino-6-nitro-indan-1-one (0.19 g, 1 mmol) in 15 ml of anhydrous dichloroethane followed by the addition of 3-cyclopentylpropionyl chloride (0.193 mg, 1.2 mmol) at room temperature under argon. The mixture was stirred at room temperature for 24 hours. The solvent was removed under reduced pressure and the residue was purified by column (hexane/EtOAc, 5:1) to give a yellow solid (0.26 g, 83%). 1H-NMR (DMSO-d6): δ 10.47 (s, 1H, NH, exchangeable with D2O), 8.06 (s, 1H), 7.87 (s, 1H), 3.15 (m, 2H), 2.69 (m, 2H), 2.38 (t, 2H, J=7.8 Hz), 1.74 (m, 2H), 1.59-1.46 (m, 7H), 1.08 (m, 2H). MS: 317 (M+1).

reactant | Pyridine | 1.3 mmol, 0.1 g | N1=CC=CC=C1 | C5H5N
reactant | 5-amino-6-nitro-indan-1-one | 1 mmol, 0.19 g | NC=1C=C2CCC(C2=CC1[N+](=O)[O-])=O | C9H8N2O3
reactant | 3-cyclopentylpropionyl chloride | 1.2 mmol, 0.193 mg | C1(CCCC1)CCC(=O)Cl | C8H13ClO
solvent | dichloroethane | 15 ml | ClC(C)Cl | C2H4Cl2
product | N-(6-Nitro-1-oxo-indan-5-yl)-3-cyclopentyl-propionamide | 0.26 g, 83% | [N+](=O)([O-])C1=C(C=C2CCC(C2=C1)=O)NC(CCC1CCCC1)=O | C17H20N2O4
